US06245761B1
Preparation of 2-(2-fluoro-5-bromobenzyloxy)-(N,N-dimethyl)ethylamine
In a 50 ml flask, under a nitrogen atmosphere, 2-(N,N-dimethylamino)ethanol (1.319 g, 4.92 mmol) was dissolved in N,N-dimethylformamide (16 ml). Sodium hydride (60%, 335 mg, 8.37 mmol) was added and the mixture was stirred at ambient temperature for about twenty minutes. To this reaction mixture was added 2-fluoro-5-bromobenzyl bromide (1.319 g, 4.92 mmol) as a solution in N,N-dimethylformamide (3 ml). The resulting mixture was stirred at ambient temperature for two hours. The progress of the reaction was monitored by thin layer chromatography. The reaction mixture was partitioned between 1 M potassium carbonate and diethyl ether. The aqueous fraction was back extracted with diethyl ether. The organic fractions were combined, washed with brine (7×) and dried over sodium sulfate. The solvents were removed in vacuo. The title intermediate was used without further purification.

reactant | 2-(N,N-dimethylamino)ethanol | 4.92 mmol, 1.319 g | CN(C)CCO | C4H11NO
reactant | Sodium hydride | 8.37 mmol, 335 mg | [H-].[Na+]
reactant | 2-fluoro-5-bromobenzyl bromide | 4.92 mmol, 1.319 g | FC1=C(CBr)C=C(C=C1)Br | C7H5Br2F
solvent | N,N-dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-(2-fluoro-5-bromobenzyloxy)-(N,N-dimethyl)ethylamine | FC1=C(COCCN(C)C)C=C(C=C1)Br | C11H15BrFNO
